US04948804
5-(2-pentyloxy)-pyrrolidin-2-one
5.5 g of 5-hydroxy-pyrrolidin-2-one, 30 cm3 of 2-pentanol and 2.75 g of Amberlite-15 resin are agitated for 5 hours at ambient temperature. After filtering, the excess pentanol is distilled off under 1 mm Hg at 40° C. The residue is chromatograp:hed on silica, (eluent: ethyl acetate), and 3.7 g of the expected product is obtained.

reactant | 5-hydroxy-pyrrolidin-2-one | 5.5 g | OC1CCC(N1)=O | C4H7NO2
reactant | 2-pentanol | 30 cm3 | CC(CCC)O | C5H12O
product | 5-(2-pentyloxy)-pyrrolidin-2-one | 3.7 g | CC(CCC)OC1CCC(N1)=O | C9H17NO2
